data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,1691,"C=CC[NH2:1].C=CC[NH3+].OB(O)C=CC1=CC=CC=C1.OC(CCC1=CC=CC=C1)[CH:2]=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,6336,"CN(C)[C:1](=[C:2](C)Br)[O-:3].[Br:4][Br:5]|(3, 1);((1, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,4783,"C[N+](C)=CO[C:1]1([Cl:2])N=C(Cl)N=C(Cl)[N-:3]1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9385,"CCO.CC[N+]1=[C:1]([C:2](CCC(C)=O)(C2=CC=C(OC)C=C2)[O-:3])SC(CCO)=C1C.CC[NH+](CC)CC.[Br-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,652,"C[OH:1].Cl[PH+:2](Cl)Cl|(1, 2)"
train,pmechdb_split_0,0,2323,"CCCCCCCCO.CCCCCCCCO[C:1](CCC)([OH2+:2])[OH:3].O=S(=O)([O-])O|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1588,"CC[NH+](CC)CC.CN[S:1](C(C)(C)C)([O-:2])[Cl:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,2423,"CC(C)[N-:1]C(C)C.C[N:2](C(=O)C=C(O)CC1=CC=CC=C1)[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,752,"CC(C)[CH2][Al:1]([CH2]C(C)C)[O]C(C=CC1=CC=CC=C1)C1=CC=CC=C1.[OH2:2]|(2, 1)"
train,pmechdb_split_0,0,5588,"CC(=O)[O-].C[OH+:1][CH:2](C1CCC2(CC1)OCCO2)[OH:3].O|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6143,"CC(C)(OC1=CC=CC=C1)[OH+:1][H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1502,"CCC=[O+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2852,"CC1C(C)(C)C2CCC13CC[CH:1]([C:2](=O)[O-:3])[C+:4]3C2.CC1C2CCC(C(=O)O)C23CCC(C3)C1(C)C|(3, 2);((2, 1), 4)"
train,pmechdb_split_0,0,894,"N#CC1=CC=C[CH:1]=[CH:2]1.O=[S+:3](=O)O|((2, 1), 3)"
train,pmechdb_split_0,0,3510,"[C-]#CCO[Si:1](C)(C)C.[F-:2]|(2, 1)"
train,pmechdb_split_0,0,1940,"CC(C)(C)[O-:1].CCCCCCN1CCC23C4=C5C=CC(OC)=C4OC2C(OC)(OC)[CH:2]([Br:3])[CH:4]([H:5])C3C1C5.CS(C)=O.[K+]|(1, 5);((5, 4), 2);((2, 3), 3)"
train,pmechdb_split_0,0,6928,"CCO[C+:1]1C=CC=C[C:2]1(S(=O)(=O)O)[H:3].O=S(=O)(O)[O-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,5890,"BrC12CC=CC3CCCC3(CCC1)[C:1]2=[O:2].[H:3][AlH3-:4].[Li+]|((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,1091,"CC(C)C(C(=O)O)[NH2:1].CC[C:2](CCC1(C)C(=O)CCC1=O)=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5189,"C=[O:1].C[Si:2](C)(C)Cl|(1, 2)"
train,pmechdb_split_0,0,2797,"C1C[N:1]2CCN1C[CH2:2]2.N#CC1=CC=C([CH2:3][Cl:4])C=C1|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,4222,"COC1=C([O-:1])C2=C(C=C1)CC1N(CC3=CC=CC=C3)CCC23C=CCCC13O.N#N.[H:2][OH:3].[K+]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,2806,"C[P+:1](C)(C)I.[OH2:2]|(2, 1)"
train,pmechdb_split_0,0,9187,"CC(=O)OI1(OC(C)=O)([O+:1](CC(=CC=C(CO)SCC[Si](C)(C)C)SCC[Si](C)(C)C)[H:2])OC(=O)C2=C1C=CC=C2.CC(=O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4488,"COC1C=CC23C(C1)N(C[CH:1]2[O:2]S(C)(=O)=O)C[C:3]1=[C:4]3C=C2OCOC2=C1.[OH-]|((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,10360,"CC(=O)[O][Sn-:1]([CH3])([CH3])([CH3])[CH:2]1CC(C)CC[CH+:3]1|((1, 2), 3)"
train,pmechdb_split_0,0,3797,"[Li][O:1][CH:2](C12C(=C)C(N(C3=CC=CC=C3)S(=O)(=O)C3=CC=C(C)C=C3)N1S(=O)(=O)C1=C2C=CC=C1)[O+:3]([AlH3-])CC|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9249,"CC1=C2C=NC=CC2=C(C)C2=C1C1=C[C:1]([CH:2]([OH:3])[O:4][OH2+:5])=CC=C1N2C.O=S(=O)([O-])O|(3, 2);((2, 1), 4);((4, 5), 5)"
train,pmechdb_split_0,0,350,"CC(=O)[O-:1].O.O=C(OC1CC[C:2](=[N+:3]2CCN(C3=CC=CC=C3)CC2)[CH:4]([H:5])C1)C1=CC=CC=C1|(1, 5);((5, 4), 2);((2, 3), 3)"
train,pmechdb_split_0,0,10005,"C[C:1](Br)(C(=O)[N:2](C)[C:3]1=[CH:4]C=CC=C1)[N+:5]#N.O=C1CCC(=O)[N-]1|(2, 3);((3, 4), 1);((1, 5), 5)"
train,pmechdb_split_0,0,1427,"C1=CC=CC=C1.CC1=CC=C(S(=O)(=O)[O:1][H:2])C=C1.N#CC1=C(C2=CC=CC=C2)OC(C2=CC=CC=C2)([OH:3])C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7476,"Cl[C:1]1=[CH:2][CH:3]=[N:4]C=C1.[NH2-:5]|(5, 1);((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,2969,"CC(=O)[N:1](C)[H:2].CC(C)[N-:3]C(C)C|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3277,"C=C1CC2CC(C)(C)CC(O)(C1)[O:1]2.O=C(O)C(=O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,6274,"CCO[C:1](OCC1C2=CC=CC=C2C2=C1C=CC=C2)([O-:2])[O:3]N1C(=O)CCC1=O|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,2417,"C1[CH2:1][O:2]1.C[CH:3]=[C:4](C)[O-:5]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,1511,"CCSC[CH:1]=[C:2](O)[OH:3].O=S(=O)(O)[O:4][H:5]|(3, 2);((2, 1), 5);((5, 4), 4)"
train,pmechdb_split_0,0,4217,"C1=CC=[NH+]C=C1.C1CC[NH:1]C1.CC(C)CCCC1CCC2C3CCC4=C[C:2](=[O:3])CCC4(C)C3CCC12C.CC1=CC=C(S(=O)(=O)[O-])C=C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1962,"CC(=O)[O-].CC(C)CC[C:1](OC(C)(C)C)([N+:2]1=CC=C(N(C)C)C=C1)[O-:3].CC[NH+](CC)CC|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8162,"CC(C)(C)[Si:1](C)(C)C1(CC(COCC2=CC=CC=C2)[O-:2])SCCCS1.CC(C)C.[Li+]|(2, 1)"
train,pmechdb_split_0,0,4833,"C[NH:1]CCC[CH:2](C1=CN=CC=C1)[Br:3].O=C([O-])O|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8491,"CCO.NCCNC(C(=O)C1=CC=CC=C1)(C1=CC=CC=C1)[O-:1].NCC[NH2+:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2228,"CCOC(=O)NN(C(OCC)=[O:1])P(OC(C)CCCCN1C(=O)C2=C(N=CN2CC2=CC=CC=C2)N(C)C1=O)(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=C(C1=CC=C([N+](=O)[O-])C=C1)[O:2][H:3]|(1, 3);((3, 2), 2)"
